US08389550B2
c) 3-Butyl-5-methyl-isoxazole-4-carbaldehyde
To a stirred solution of PCC (4.96 g, 23 mmol) and anhydrous magnesium sulfate (7.40 g, 61 mmol) in DCM (60 mL) was added a solution of (3-butyl-5-methyl-isoxazol-4-yl)-methanol (2.6 g, 15 mmol) in DCM (60 mL) at room temperature and under argon. After 3 h the reaction mixture was diluted with ether (100 mL) and filtered through a bed of silica and the filtrate was concentrated. Purification by chromatography (silica heptane:ethyl acetate=100:0 to 1:1) afforded the title compound (2.15 g, 84%) as a colorless liquid. MS: m/e=170.3 [M+H]+.

reactant | PCC | 23 mmol, 4.96 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
reactant | magnesium sulfate | 61 mmol, 7.40 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | (3-butyl-5-methyl-isoxazol-4-yl)-methanol | 15 mmol, 2.6 g | C(CCC)C1=NOC(=C1CO)C | C9H15NO2
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 100 mL | CCOCC | C4H10O
product | 3-Butyl-5-methyl-isoxazole-4-carbaldehyde | 2.15 g, 84% | C(CCC)C1=NOC(=C1C=O)C | C9H13NO2
